US06562849B1
1-(Benzo[1,3]dioxol-5-yl)-3-(3-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)urea (exemplification compound number 2-72)
A mixture of piperonylic acid (133 mg), diphenylphosphoryl azide (217 mg), triethylamine (314 mg) and anhydrous toluene (8 ml) was stirred at 80° C. for 1 hour. To the reaction mixture was added 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride (400 mg) and anhydrous N,N-dimethylformamide (4 ml) at room temperature and the mixture was stirred at the same temperature for 1 hour and then allowed to stand overnight. The reaction mixture was concentrated and partitioned between ethyl acetate and water. The extract was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate and then concentrated. The residue was chromatographed on a silica gel column using ethyl acetate:n-hexane=3:1→1:0 as the eluant. The product insoluble in a mixture of methanol and diisopropyl ether (5:1) was isolated by filtration and was further purified by preparative reverse phase high performance liquid chromatography using acetonitrile/water=50:50 as the eluant to afford the title compound (26 mg, mp 179.2-182.4° C.).

reactant | piperonylic acid | 133 mg | C(C1=CC=2OCOC2C=C1)(=O)O | C8H6O4
reactant | diphenylphosphoryl azide | 217 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 314 mg | C(C)N(CC)CC | C6H15N
reactant | 5-[4-[6-(3-aminophenoxy)-1-methyl-1H-benzimidazol-2-ylmethoxy]benzyl]thiazolidine-2,4-dione dihydrochloride | 400 mg | Cl.Cl.NC=1C=C(OC=2C=CC3=C(N(C(=N3)COC3=CC=C(CC4C(NC(S4)=O)=O)C=C3)C)C2)C=CC1
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(Benzo[1,3]dioxol-5-yl)-3-(3-[2-[4-(2,4-dioxothiazolidin-5-ylmethyl)phenoxymethyl]-1-methyl-1H-benzimidazol-6-yloxy]phenyl)urea | 26 mg | O1COC2=C1C=CC(=C2)NC(=O)NC2=CC(=CC=C2)OC=2C=CC1=C(N(C(=N1)COC1=CC=C(C=C1)CC1C(NC(S1)=O)=O)C)C2 | C33H27N5O7S
